US06180622B2
b) (3S)-3-Acetylthio-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)pyrrolidine (stereoisomer A) and ditto (stereoisomer B)
Phosphorus oxychloride (1.2 ml) is added to a solution of 1.00 g of (3S,5S)-3-acetylthio-1-allyloxycarbonyl-5-[(thiazol-2-yl)methylaminocarbonyl]pyrrolidine in 10 ml of toluene, and the mixture is stirred at 100° C. for one hr. The reaction mixture is concentrated under reduced pressure, dichloromethane is added to the residue, and the mixture is successively washed with an aqueous potassium carbonate solution and saturated saline and dried over magnesium sulfate. The solvent is removed by evaporation, and the residue is purified by column chromatography on silica gel to give 0.27 g of the title compound (stereoisomer A: a high polar component) and 0.07 g of the title compound (stereoisomer B: a low polar component).

reactant | Phosphorus oxychloride | 1.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (3S,5S)-3-acetylthio-1-allyloxycarbonyl-5-[(thiazol-2-yl)methylaminocarbonyl]pyrrolidine | 1.00 g | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(=O)NCC=1SC=CN1)C(=O)OCC=C | C15H19N3O4S2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-Acetylthio-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)pyrrolidine | 0.07 g | C(C)(=O)S[C@@H]1CN(C(C1)C1=NC=C2SC=CN21)C(=O)OCC=C | C15H17N3O3S2
